US05824652
trans-2,4-Dimethyl-3-oxo-octahydro-2H-1,4-benzoxazine-2-carboxylic acid
trans-Ethyl-2,4-dimethyl-3-oxo-octahydro-2H-1,4-benzoxazine-2-carboxylate (180 mg, 0.71 mmoles) and 1N NaOH (1.1 ml, 1.1 mmoles) in dioxan (5 ml) were stirred for 20 hours. The solvent was evaporated, 1N HCl (11 ml, 11 mmoles) was added to the residue and the mixture was extracted with ethyl acetate (3×20 ml). The organic phase was dried over MgSO4 and the solvent was evaporated. Thus there were obtained 114 mg (71%) of the title product in the form of a viscous yellow oil.

reactant | trans-Ethyl-2,4-dimethyl-3-oxo-octahydro-2H-1,4-benzoxazine-2-carboxylate | 0.71 mmoles, 180 mg | C(C)OC(=O)C1(O[C@H]2[C@H](N(C1=O)C)CCCC2)C | C13H21NO4
reactant | NaOH | 1.1 mmoles, 1N, 1.1 ml | [OH-].[Na+]
reactant | HCl | 11 mmoles, 1N, 11 ml | Cl | ClH
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
product | trans-2,4-Dimethyl-3-oxo-octahydro-2H-1,4-benzoxazine-2-carboxylic acid | 114 mg, 71% | CC1(O[C@H]2[C@H](N(C1=O)C)CCCC2)C(=O)O | C11H17NO4
